US08486979B2
5-(4-chloro-2,5-difluorophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 4-chloro-2,5-difluorobenzoic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ 7.65 (ddd, J=8.0, 4.9, 1.0 Hz, 1 H), 7.73 (dd, J=9.7, 5.9 Hz, 1 H), 8.18 (dd, J=8.8, 6.1 Hz, 1 H), 8.57 (dt, J=8.1, 1.9 Hz, 1 H), 8.75 (dd, J=4.7, 1.7 Hz, 1 H), 9.30 (dd, J=2.2, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 294 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 4-chloro-2,5-difluorobenzoic acid | ClC1=CC(=C(C(=O)O)C=C1F)F | C7H3ClF2O2
reactant | NH3 | N | H3N
product | 5-(4-chloro-2,5-difluorophenyl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | ClC1=CC(=C(C=C1F)C1=NC(=NO1)C=1C=NC=CC1)F | C13H6ClF2N3O
